US07781478B2
A solution of 2-fluoro-5-nitroaniline (11.7 g, 74.9 mmol) in dimethylformamide (120 mL) is treated with malononitrile (5.28 g, 80.0 mmol) and potassium carbonate (11.05 g, 80.0 mmol) (Modification of Chem. Heterocyclic Cpd. Engl. Trans., 9, 37 (2001)). The resulting heterogeneous mixture is heated to gentle reflux for 3 h, then cooled and poured into water (500 mL). The resulting precipitate is collected by filtration and taken up into ethyl acetate (300 mL). This solution is dried over Na2SO4, filtered and partially evaporated to give a precipitate, which is collected by filtration. Further evaporation and filtration give a second crop. The two crops are combined and dried under vacuum to give 2-amino-1-ethyl-6-nitro-1H-indole-3-carbonitrile (7.90 g, 52%) as an orange powder.

reactant | 2-fluoro-5-nitroaniline | 74.9 mmol, 11.7 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | malononitrile | 80.0 mmol, 5.28 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 80.0 mmol, 11.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
reactant | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 2-amino-1-ethyl-6-nitro-1H-indole-3-carbonitrile | 7.90 g, 52% | NC=1N(C2=CC(=CC=C2C1C#N)[N+](=O)[O-])CC | C11H10N4O2
